US07569550B2
e) Ethyl 9-(3-tert-butoxycarbonylamino-propyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate
Ethyl 9-(3-tert-butoxycarbonylamino-prop-1-ynyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate (318 mg, 0.77 mmol) was dissolved in dichloromethane (50 mL), treated with 10% palladiun on carbon (200 mg) and hydrogenated at room temperature and atmospheric pressure overnight. The reaction mixture was filtered and concentrated to provide a brown oil which was purified by chromatography on silica gel eluting with 0-1% (9:1 MeOH/20 M NH3) in dichloromethane to yield the title compound as a brown oil. ESMS m/z 415 (MH+). 1H NMR (CDCl3) δ 8.34 (s, 1H), 8.11 (bs, 1H), 7.25 (bs, 1H), 4.60 (m, 1H), 4.37 (q, 2H), 4.17 (t, 2H), 3.13 (q, 2H), 3.02 (t, 2H), 2.71 (t,2H), 2.20 (tt, 2H), 1.85 (tt, 2H), 1.44 (s, 9H), 1.40 (t, 3H).

reactant | Ethyl 9-(3-tert-butoxycarbonylamino-prop-1-ynyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | 0.77 mmol, 318 mg | C(C)(C)(C)OC(=O)NCC#CC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)OCC)=O | C23H26N2O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Ethyl 9-(3-tert-butoxycarbonylamino-propyl)-1-oxo-6,7-dihydro-1H,5H-pyrido[3,2,1-ij]quinoline-2-carboxylate | C(C)(C)(C)OC(=O)NCCCC=1C=C2C(C(=CN3C2=C(C1)CCC3)C(=O)OCC)=O | C23H30N2O5
